US06787650B1
4-[4-(Methylsulfonyl)benzyl]piperidine
4-[4-(Methylsulfonyl)benzyl]piperidine hydrochloride (1000 mg) was dissolved in water (10 mL). An aqueous solution of 1N sodium hydroxide (5 mL) was added to the solution at 0° C., and the aqueous phase was extracted with dichloromethane (10 mL×3). The organic phase was dried over potassium carbonate and filtered, and the filtrate was concentrated under reduced pressure. Diisopropyl ether (10 mL) was added to the residue, and the precipitate was collected by filtration. The precipitate was washed with diisopropyl ether and dried under reduced pressure to give the title compound as a white solid (712 mg).

reactant | 4-[4-(Methylsulfonyl)benzyl]piperidine hydrochloride | 1000 mg | Cl.CS(=O)(=O)C1=CC=C(CC2CCNCC2)C=C1
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | 4-[4-(Methylsulfonyl)benzyl]piperidine | 712 mg | CS(=O)(=O)C1=CC=C(CC2CCNCC2)C=C1 | C13H19NO2S
